US07629346B2
5-Bromo-3-(2,4-dichloro-phenyl)-2-(2-methoxy-ethoxy)-pyrazine
To a solution of 0.077 g (0.001 mol) 2-methoxyethanol in 2 ml dimethylsulfoxide was added at room temperature 0.088 g (0.002 mol) sodium hydride (55% in oil) and the mixture was stirred at room temperature for 1 h. To the resulting solution was added 0.352 g 2,5-dibromo-3-(2,4-dichloro-phenyl)-pyrazine and the mixture was stirred at room temperature for 3 h. The resulting reaction mixture was partitioned between water and ethyl acetate, the phases were separated and the organic phase washed twice with water, dried with sodium sulfate and evaporated. The residue was purified by chromatography on silica gel using dichloromethane:heptane=3:1 to dichloromethane as eluent to yield 0.090 g (24% yield) of the title compound as the faster eluting compound as white crystals melting at 92-93° C. and 0.171 g (45% yield) of its isomer 2-bromo-3-(2,4-dichloro-phenyl)-5-(2-methoxy-ethoxy)-pyrazine as the slower eluting compound as yellowish oil.

reactant | 2-methoxyethanol | 0.001 mol, 0.077 g | COCCO | C3H8O2
reactant | sodium hydride | 0.002 mol, 0.088 g | [H-].[Na+]
reactant | 2,5-dibromo-3-(2,4-dichloro-phenyl)-pyrazine | 0.352 g | BrC1=NC=C(N=C1C1=C(C=C(C=C1)Cl)Cl)Br | C10H4Br2Cl2N2
reactant | heptane | CCCCCCC | C7H16
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Bromo-3-(2,4-dichloro-phenyl)-2-(2-methoxy-ethoxy)-pyrazine | 0.090 g, 24% yield | BrC=1N=C(C(=NC1)OCCOC)C1=C(C=C(C=C1)Cl)Cl | C13H11BrCl2N2O2
